* Extracted by KLayout with SG13G2 LVS runset on : 12/01/2026 18:00

.SUBCKT inv_PI_d4 VSS VOUT VIN VDD
X$1 VSS VIN VDD VOUT inv_PI_d2
X$2 VSS VIN VDD VOUT inv_PI_d2
.ENDS inv_PI_d4

.SUBCKT inv_PI_d2 VSS VIN VDD VOUT
M$1 VSS VIN VOUT VSS sg13_lv_nmos L=0.13u W=0.6u AS=0.267p AD=0.267p PS=3.56u
+ PD=3.56u
M$5 VDD VIN VOUT VDD sg13_lv_pmos L=0.13u W=0.9u AS=0.378p AD=0.378p PS=5.04u
+ PD=5.04u
.ENDS inv_PI_d2
